US08207134B2
1) Synthesis of naphthalene-1,4-dicarboxylic acid diisopropyl ester
Under a nitrogen stream, sulfuric acid (8 mL) was added dropwise over 3 hours to a solution of naphthalene-1,4-dicarboxylic acid (1.107 g, 5.12 mmol) in 2-propanol (60 mL) while heating to reflux. The resultant solution was cooled to room temperature and then saturated aqueous sodium carbonate was added thereto. The mixture was then stirred for 10 minutes at room temperature. The resultant mixture was twice extracted with dichloromethane. After drying the organic layer over anhydrous magnesium sulfate, solvent was removed by distillation under reduced pressure. The resulting residue was purified by silica gel column chromatography (developing solution=ethyl acetate:n-hexane (15:85)), to thereby obtain the titled compound (588 mg, 38%).

reactant | sulfuric acid | 8 mL | S(O)(O)(=O)=O | H2O4S
reactant | naphthalene-1,4-dicarboxylic acid | 5.12 mmol, 1.107 g | C1(=CC=C(C2=CC=CC=C12)C(=O)O)C(=O)O | C12H8O4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 2-propanol | 60 mL | CC(C)O | C3H8O
product | naphthalene-1,4-dicarboxylic acid diisopropyl ester | 588 mg, 38% | C(C)(C)OC(=O)C1=CC=C(C2=CC=CC=C12)C(=O)OC(C)C | C18H20O4
